US06235742B1
5-(4-([4-methylpiperazin-1-yl]sulphonyl)benzyl)-1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidine
N-methyl piperazine (1.28 ml, 0.0115 mol) was added to a solution of 4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-1-benzenesulfonyl chloride (1.35 g, 0.0035 mol) in ethanol (20 ml) and the reaction stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue partitioned between dichloromethane (50 ml) and water (20 ml). The aqueous phase was extracted with further dichloromethane (50 ml), the combined organic extracts dried (MgSO4), filtered, and evaporated under reduced pressure.

reactant | N-methyl piperazine | 0.0115 mol, 1.28 ml | CN1CCNCC1 | C5H12N2
reactant | 4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]-1-benzenesulfonyl chloride | 0.0035 mol, 1.35 g | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC=C(C=C2)S(=O)(=O)Cl)CCC | C16H17ClN4O3S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(4-([4-methylpiperazin-1-yl]sulphonyl)benzyl)-1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidine | CN1CCN(CC1)S(=O)(=O)C1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C21H28N6O3S
